US04013708
50 ml of 2 N sodium hydroxide solution are added to a solution of 21 g of crude 4-[p-(1-cyclooctenyl)-phenoxy]-butyric acid ethyl ester in 300 ml of ethanol, whilst stirring, and the mixture is stirred for 48 hours and evaporated to dryness under reduced pressure. The evaporation residue is distributed 3 times between 200 ml of ether and 200 ml of water in each case and the water phases are acidified to pH = 2 with concentrated hydrochloric acid and extracted with 3 times 200 ml of ether. The resulting organic phases are combined, washed until neutral, dried over sodium sulphate and evaporated under reduced pressure. The evaporation residue, after treatment with active charcoal and crystallisation from ether-petroleum ether, gives 4-[p-(1-cyclooctenyl)-phenoxy]-butyric acid in the form of white needles of melting point 110° -111° C.

reactant | sodium hydroxide | 2 N, 50 ml | [OH-].[Na+]
reactant | 4-[p-(1-cyclooctenyl)-phenoxy]-butyric acid ethyl ester | 21 g | C(C)OC(CCCOC1=CC=C(C=C1)C1=CCCCCCC1)=O | C20H28O3
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-[p-(1-cyclooctenyl)-phenoxy]-butyric acid | C1(=CCCCCCC1)C1=CC=C(OCCCC(=O)O)C=C1 | C18H24O3
